US05446189
Using this procedure 3-nitrobenzoyl chloride was treated with decylamine togive 3-nitro-N-decylbenzamide, mp 86°-88°, which was hydrogenated to give 3-amino-N-decylbenzamide, mp 56°-58°, which gave nmr and mass spectra consistent with the structure.

reactant | 3-nitrobenzoyl chloride | [N+](=O)([O-])C=1C=C(C(=O)Cl)C=CC1 | C7H4ClNO3
reactant | decylamine | C(CCCCCCCCC)N | C10H23N
product | 3-amino-N-decylbenzamide | NC=1C=C(C(=O)NCCCCCCCCCC)C=CC1 | C17H28N2O
